US06380189B1
N-(6-Bromo-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl)-L-alanine 1,1-dimethylethyl Ester
To an ice cooled suspension of CDI (0.309 g, 1.91 mol) in 2 mL of pyridine was added L-alanine tert-butyl ester hydrochloride (0.317 g, 1.74 mmol). After stirring at 0° C. for 30 minutes, 2-amino-5-bromo-6-methylbenzoic acid (0.494 g, 1.60 mmol) and 25 mg of DMAP was added. The ice bath was removed and the reaction was stirred at 65° C. for 2.5 hours. The reaction mixture was cooled to room temperature and diluted with 2 mL of DMF and 2 mL of CH2Cl2. Triethylamine (0.257 g, 2.54 mmol) and EDC (0.457 g, 2.38 mmol) were added sequentially. After stirring at room temperature for 2 hours, the reaction mixture was diluted with EtOAc and washed with 1N HCl, dried (MgSO4), filtered and evaporated under reduced pressure. Silica gel chromatography of the residue (1:1 EtOAc/hexane) afforded 49 mg of product: 1H-NMR (300 MHz, CDCl3) δ 1.49 (s, 9H), 1.50 (d, J=7 Hz, 3H), 2.83 (s, 3H), 4.47 (q, J=7 Hz, 1H), 5.60 (br. s, 1H, exchangeable), 6.97 (d, J=9 Hz, 1H), 7.73 (d, J=9 Hz, 1H).

reactant | CDI | 1.91 mol, 0.309 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | L-alanine tert-butyl ester hydrochloride | 1.74 mmol, 0.317 g | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
reactant | 2-amino-5-bromo-6-methylbenzoic acid | 1.60 mmol, 0.494 g | NC1=C(C(=O)O)C(=C(C=C1)Br)C | C8H8BrNO2
reactant | Triethylamine | 2.54 mmol, 0.257 g | C(C)N(CC)CC | C6H15N
reactant | EDC | 2.38 mmol, 0.457 g
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(6-Bromo-5-methyl-4-oxo-4H-3,1-benzoxazin-2-yl)-L-alanine 1,1-dimethylethyl Ester | 49 mg | CC(C)(C)OC([C@@H](NC1=NC2=C(C(O1)=O)C(=C(C=C2)Br)C)C)=O | C16H19BrN2O4
